US08809525B2
6-(4-Methoxyphenoxy)-5-phenyl-1,2,4-triazin-3-amine (45 mg, 13%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.30 g, 1.19 mmol) and 4-methoxyphenol (0.30 g, 2.39 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.19 mmol, 0.30 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 4-methoxyphenol | 2.39 mmol, 0.30 g | COC1=CC=C(C=C1)O | C7H8O2
product | 6-(4-Methoxyphenoxy)-5-phenyl-1,2,4-triazin-3-amine | 45 mg, 13% | COC1=CC=C(OC2=C(N=C(N=N2)N)C2=CC=CC=C2)C=C1 | C16H14N4O2
